US04279910
A solution consisting of chroman-2-carbonyl chloride (1.13 g.) in dry methylene chloride (20 ml.) was added dropwise to a stirred suspension of 4-amino-6,7-dimethoxy-2-piperazinoquinazoline (1.38 g.) in dry methylene chloride (30 ml.) with ice bath cooling. The resulting reaction mixture was then stirred at room temperature (20° C.) overnight (approximately 16 hours), and the solid product so obtained was subsequently partitioned between aqueous sodium carbonate solution (30 ml., 1.0 N) and chloroform (220 ml.). The chloroform layer which separated was subsequently evaporated in vacuo and the resulting residue (2.5 g.) was thereafter chromatographed on silica gel (100 g.), eluting first with chloroform (200 ml.) and then with chloroform-methanol (800 ml., 97.5:2.5 parts by volume). The appropriate fractions were then collected and subsequently combined and evaporated in vacuo, and the resulting final product thereafter recrystallized from ethyl acetate to give pure 4-amino-2-[4-(chroman-2-carbonyl)piperazino]-6,7-dimethoxyquinazoline (yield, 625 mg.), m.p. 165°-167° C.

reactant | chroman-2-carbonyl chloride | 1.13 g | O1C(CCC2=CC=CC=C12)C(=O)Cl | C10H9ClO2
reactant | 4-amino-6,7-dimethoxy-2-piperazinoquinazoline | 1.38 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-2-[4-(chroman-2-carbonyl)piperazino]-6,7-dimethoxyquinazoline | 625 mg | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1OC2=CC=CC=C2CC1 | C24H27N5O4
